US08080541B2
Intermediate AN: 2-Cyclopropyl-4,6-bis-trifluoromethyl-benzoic acid
Crude 2-cyclopropyl-4,6-bis-trifluoromethyl-benzaldehyde (intermediate AM, 1.01 g, 3.58 mmol) was dissolved in 8.5 mL tert-butylalcohol and 4.5 mL 2-methyl-2-butene. At 0° C. a solution of sodium chlorite (340 mg, 3.76 mmol) and sodium dihydrogenphosphat (451 mg, 3.76 mmol) in 3 mL water was added. The reaction mixture was stirred at room temperature overnight. The solvents were evaporated off. The residue was taken up in 1N NaOH and extracted twice with tert-butyl methyl ether. The aqueous phase was adjusted to pH 2 by addition of 25% HCl and extracted twice with tert-butyl methyl ether. The combined organic phases were dried on sodium sulfate, filtered and evaporated. The crude material, off-white solid (1.01 g, 54%) was used without further purification.

reactant | 2-cyclopropyl-4,6-bis-trifluoromethyl-benzaldehyde | 3.58 mmol, 1.01 g | C1(CC1)C1=C(C=O)C(=CC(=C1)C(F)(F)F)C(F)(F)F | C12H8F6O
reactant | sodium chlorite | 3.76 mmol, 340 mg | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogenphosphat | 3.76 mmol, 451 mg | P(=O)(O)(O)[O-].[Na+]
solvent | tert-butylalcohol | 8.5 mL | C(C)(C)(C)O | C4H10O
solvent | 2-methyl-2-butene | 4.5 mL | CC(C)=CC | C5H10
solvent | water | 3 mL | O | H2O
product | 2-Cyclopropyl-4,6-bis-trifluoromethyl-benzoic acid | C1(CC1)C1=C(C(=O)O)C(=CC(=C1)C(F)(F)F)C(F)(F)F | C12H8F6O2
